US08748624B2
STEP B: N-(2-bromo-4-(trifluoromethyl)benzyl)-2-chloro-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine
2-Bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene, prepared as described in Example 34 (2.5 g, 7.9 mmol), 2-chloro-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine (2.5 g, 8.7 mmol), and K2CO3 (1.6 g, 11.8 mmol) were diluted with DMF (20 mL) and heated to 80° C. After 3 h the resulting mixture was diluted with EtOAc, washed with water and brine, dried (Na2SO4), and dry packed onto silica gel. Column chromatography yielded the title compound.

reactant | 2-Bromo-1-(bromomethyl)-4-(trifluoromethyl)benzene | BrC1=C(C=CC(=C1)C(F)(F)F)CBr | C8H5Br2F3
reactant | 2-chloro-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine | 8.7 mmol, 2.5 g | ClC1=C(C=CC(=C1)N)C1=C(C=C(C=C1)C(F)(F)F)C | C14H11ClF3N
reactant | K2CO3 | 11.8 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-bromo-4-(trifluoromethyl)benzyl)-2-chloro-2′-methyl-4′-(trifluoromethyl)-[1,1′-biphenyl]-4-amine | BrC1=C(CNC2=CC(=C(C=C2)C2=C(C=C(C=C2)C(F)(F)F)C)Cl)C=CC(=C1)C(F)(F)F | C22H15BrClF6N
